US04562272
According to this invention, 22 grams of ethylene carbonate, 11 grams of 2-decanone and 0.565 grams of CsCl were placed in a 100 ml round-bottomed flask which was fitted with a thermometer, distillation head and a cold trap. The flask was heated in an oil bath (with magnetic stirring) at about 150° C. to about 175° C. for about 8 hours. Analysis of the reaction mixture by gas chromatography showed that 15-Crown-5 and 18-Crown-6 were formed.

reactant | ethylene carbonate | 22 grams | C1(OCCO1)=O | C3H4O3
reactant | 2-decanone | 11 grams | CC(CCCCCCCC)=O | C10H20O
reactant | CsCl | 0.565 grams | [Cl-].[Cs+]
reactant | 15-Crown-5 | C1COCCOCCOCCOCCO1 | C10H20O5
product | 18-Crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
